US08492549B2
3-(Piperidin-3-yl)phenol.
HBr can be prepared from 3-(3-methoxyphenyl)piperidine as described in J. Med. Chem., 24 (1981) 1475.

reactant | HBr | Br | BrH
reactant | 3-(3-methoxyphenyl)piperidine | COC=1C=C(C=CC1)C1CNCCC1 | C12H17NO
product | 3-(Piperidin-3-yl)phenol | N1CC(CCC1)C=1C=C(C=CC1)O | C11H15NO
